US04357474
A solution of 64 g (785.0 mmol) of cyclohexene in 20 ml of tetrahydrofuran (THF) is added to 392.5 ml (392.5 mmol) of borane (1 M solution in THF) at -15°, after which the solution is stirred at 0°-5° for 1 hour to prepare dicyclohexylborane. This is cooled to -15° and 32 g (392.5 mmol) of 1-hexyne in 10 ml of THF is added dropwise. After addition is completed the reaction mixture is stirred at 0°-5° for 2.5 hours to yield a solution of (E)-1-hexen-1-yldicyclohexylborane.

reactant | cyclohexene | 785.0 mmol, 64 g | C1=CCCCC1 | C6H10
reactant | borane | 392.5 mmol, 1 M, 392.5 ml | B | BH3
reactant | dicyclohexylborane | C1(CCCCC1)BC1CCCCC1 | C12H23B
reactant | 1-hexyne | 392.5 mmol, 32 g | C#CCCCC | C6H10
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | THF | 10 ml | O1CCCC1 | C4H8O
product | (E)-1-hexen-1-yldicyclohexylborane | C(=C\CCCC)/B(C1CCCCC1)C1CCCCC1 | C18H33B
